US07504411B2
To a suspension of (R)-2-(4-chlorophenyl)piperazine dihydrochloride (1.09 g, 4.05 mmol) in tetrahydrofuran (24 ml) was added triethylamine (2.82 ml, 20.3 mmol). After stirring for 15 min at room temperature, 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one (748 mg, 3.38 mmol) was added portionwise. Upon disappearance of the chloropyrimidone, the reaction mixture was condensed under reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate solution and dichloromethane. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to give pale yellow solid, which was recrystallized from ethanol to afford (R)-2-(2-(4-chlorophenyl)piperazin-4-yl)-3-methyl-6-(4-pyridyl)-pyrimidin-4-one (998 mg, 77.4%) as white crystals. The enantiomer excess was determined by HPLC (>99% ee). The crystals were converted into its dihydrochloride salt.

reactant | (R)-2-(4-chlorophenyl)piperazine dihydrochloride | 4.05 mmol, 1.09 g | Cl.Cl.ClC1=CC=C(C=C1)[C@H]1NCCNC1
reactant | triethylamine | 20.3 mmol, 2.82 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one | 3.38 mmol, 748 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | chloropyrimidone | ClC1=NC(NC=C1)=O | C4H3ClN2O
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | (R)-2-(2-(4-chlorophenyl)piperazin-4-yl)-3-methyl-6-(4-pyridyl)-pyrimidin-4-one | 998 mg, 77.4% | ClC1=CC=C(C=C1)[C@H]1NCCN(C1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C20H20ClN5O
